US05639752
D. 3-(2-Dimethylaminoethyl)-5-(3-aminocarbonylpyrid-2-ylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 2-chloronicotinamide were used. Pyridine was used as base, bromobenzene was used as solvent, and the reaction was heated at reflux (156° C.) for 18 hours. Chromatography followed by recrystallization (methanol/water) of the resulting solid in afforded the title compound (36%) as a yellow solid: mp, 127.0°-129.0° C.; 13C NMR (CD3OD) δ173.0, 157.9, 152.2, 139.0, 135.4, 132.4, 129.0, 123.9, 119.1, 113.7, 113.2, 113.0, 112.5, 111.3, 61.4, 45.4, 24.3; HRMS calculated for C18H21N5O 323.1748, found 323.1726. Anal. calcd. for C18H21N5O.H2O; C, 63.33; H, 6.79; N, 20.51. Found: C, 63.19; H, 6.50; N, 20.30.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 2-chloronicotinamide | ClC1=C(C(=O)N)C=CC=N1 | C6H5ClN2O
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 3-(2-Dimethylaminoethyl)-5-(3-aminocarbonylpyrid-2-ylamino)-1H-indole | 36% | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1C(=O)N)C | C18H21N5O
